Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
thigh pain, swelling
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with history of DVT/PE not on 
anticoagulation who presents with thigh pain, found at outside 
hospital to have DVT and saddle PE, transferred for further 
management. 

The patient reports that she injured her right Achilles about 1 
month ago while cleaning her oven. She was on crutches for 
several weeks, but these were discontinued about 1 week ago when 
started to wear a boot. She has been going to physical therapy. 

On ___ she began to develop pain behind her right knee and into 
her right thigh. She presented on ___ for physical therapy, and 
her therapy was concerned about a blood clot so she was referred 
to the ___. At ___, the patient was noted to be 
tachycardic and hypoxic to the ___ on room air. Labs
notable for WBC 13.5, D-dimer >4.0 (0.00-0.41), troponin I 
<0.01. Bilateral lower extremity ultrasound showed extensive 
right lower extremity DVT, and CTA chest showed saddle PE. She 
was started on heparin and transferred to ___ for further 
care.

 
Past Medical History:
Hypertension
Pulmonary embolism 1 month s/p C-section ___ years ago
Peripheral vascular disease s/p stenting
Vocal cord polyp s/p removal
 
Social History:
___
Family History:
Mother with DVT s/p IVC filter in her ___ carotid artery
stenosis
No other family history of blood clots
No family history of malignancy
 
Physical Exam:
=============================
ADMISSION PHYSICAL EXAM
=============================
VS: 98.1 127 / 83 87 16 97 3L  
GENERAL: Well appearing, in NAD  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: No JVD  
HEART: Tachycardic, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, non labored 
respirations
ABDOMEN: BS+, soft, NTND 
EXTREMITIES: No peripheral edema, right lower extremity with
tenderness to palpation over Achilles tendon; no TTP in calf,
popliteal fossa, or thigh, no palpable cord
PULSES: 1+ ___ pulses bilaterally  
NEURO: A&Ox3, CN XII-XII intact, moving all 4 extremities with
purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
=============================
DISCHARGE PHYSICAL EXAM
=============================
VS: ___ 1104 Temp: 97.5 PO BP: 116/79 L Sitting HR: 64 RR:
16 O2 sat: 93% O2 delivery: RA 
GENERAL: Well appearing, in NAD  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: No JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, normal WOB
ABDOMEN: BS+, soft, NT/ND. No rebound or
guarding.
EXTREMITIES: No peripheral edema, right lower extremity with
tenderness to palpation over Achilles tendon; no TTP, erythema,
swelling in calf, popliteal fossa, or thigh, no palpable cord.
PULSES: 1+ ___ pulses bilaterally  
NEURO: A&Ox3, CN XII-XII grossly intact, moving all 4 
extremities
with purpose  
SKIN: Toes cold to touch bilaterally, warm and well perfused
elsewhere, no excoriations or lesions, no rashes

 
Pertinent Results:
=======================
ADMISSION LABS
=======================
___ 09:25PM URINE  RBC-<1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 09:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:25PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:25PM   PLT COUNT-311
___ 09:25PM   NEUTS-74.6* LYMPHS-16.7* MONOS-7.7 EOS-0.2* 
BASOS-0.4 IM ___ AbsNeut-9.49* AbsLymp-2.13 AbsMono-0.98* 
AbsEos-0.03* AbsBaso-0.05
___ 09:25PM   WBC-12.7* RBC-4.61 HGB-13.5 HCT-41.3 MCV-90 
MCH-29.3 MCHC-32.7 RDW-13.7 RDWSD-44.9
___ 09:25PM URINE  UHOLD-HOLD
___ 09:25PM URINE  HOURS-RANDOM
___ 09:25PM   CALCIUM-8.6 PHOSPHATE-2.7 MAGNESIUM-2.0
___ 09:25PM   proBNP-54
___ 09:25PM   cTropnT-<0.01
___ 09:25PM   estGFR-Using this
___ 09:25PM   GLUCOSE-143* UREA N-10 CREAT-0.6 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-107 TOTAL CO2-21* ANION GAP-15
========================
DISCHARGE LABS
========================
___ 11:19AM BLOOD WBC-10.5* RBC-4.48 Hgb-13.3 Hct-40.1 
MCV-90 MCH-29.7 MCHC-33.2 RDW-13.6 RDWSD-44.6 Plt ___
___ 11:19AM BLOOD Plt ___
___ 11:19AM BLOOD ___ PTT-43.4* ___
___ 01:35AM BLOOD PTT-150*
___ 11:19AM BLOOD Glucose-109* UreaN-9 Creat-0.5 Na-140 
K-3.8 Cl-102 HCO3-22 AnGap-16
___ 11:19AM BLOOD cTropnT-<0.01
___ 11:19AM BLOOD Calcium-9.2 Phos-2.5* Mg-2.1

 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with history of DVT/PE not 
currently on anticoagulation who presents with thigh pain, found 
at outside hospital to have DVT and saddle PE, transferred for 
further management.

Acute Issues:
# DVT, provoked saddle PE
# Acute hypoxic respiratory failure
Patient with prior history of VTE after C-section (s/p Coumadin 
x3m, ___ years ago), presented to ___ with right thigh 
pain, tachycardia, and hypoxia. CTA showed saddle PE and ___ 
demonstrated DVT. She was started on heparin gtt and transferred 
to ___ for further management. At ___, pt was evaluated by 
MASCOT (integrative PE team) and noted to be hemodynamically 
stable with no lab, physical exam or ECG abnormalities 
suggestive of right heart failure. No TTE/TEE conducted. Pt has 
recent immobilization due to Achilles injury, is a former 
smoker, and has a family history of blood clots. Pt had 
unremarkable mammogram last year but is overdue for colonoscopy. 
Her recurrent DVT and family history are concerning for 
hereditary coagulopathy; anti-cardiolipin and 
Beta-2-Glycoprotein antibody screens were sent and pending at 
time of discharge. Pt was transitioned to Apixaban 10mg BID for 
one week (___) followed by transition to 5mg BID on 
___ moving forward. Given her family history and recurrence, 
she will likely need to be on lifelong anticoagulation. 
Recommended to have coagulopathy work up as out patient. Pain 
was managed with Tylenol PRN. 

# Leukocytosis: WBC 12.7 on ___ downtrended to 10.5 on ___. No 
signs or symptoms of infection, afebrile. Likely secondary to 
VTE as above.

# Peripheral vascular disease: Patient with history of blue toe 
syndrome, s/p stenting with Dr. ___ at ___. Patient noted 
to have cooler extremities on exam with palpable pulses. ASA, 
atorvastatin continued. Will proceed with outpatient follow up 
with Dr. ___.

# Pulmonary nodules
___emonstrated 4mm bilateral lower lobe pulmonary 
nodules. Should schedule repeat CT in 6 months.

Transitional Issues:
[ ] Continue Apixaban 10mg BID through ___ and start Apixaban 
5mg BID starting on ___ - will likely need lifelong 
anticoagulation given recurrent DVT/PE
[ ] Will need outpatient hematology follow up at ___ for 
hypercoagulability work up - work up began while hospitalized 
with cardiolipin antibodies and Beta-2-Glycoprotein antibodies 
sent and pending at time of discharge
[ ] Follow up with vascular surgery as outpatient and consider 
repeat ABIs given cool extremities while hospitalized
[ ] Needs repeat CT scan in 6 months for further evaluation of 
pulmonary nodules
[ ] Needs routine colon cancer screening

#CODE: Full (presumed) 
#CONTACT: 
Name of health care proxy: ___. 
Relationship: husband 
Cell phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Apixaban 10 mg PO BID 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*74 Tablet Refills:*0 
3.  amLODIPine 2.5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO EVERY OTHER DAY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Deep Vein Thrombosis
Pulmonary Embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had leg pain and trouble breathing

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We imaged your chest and legs and determined that you had 
blood clots
- We started you on a blood thinning medication
- Your breathing and pain improved

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team
 
Followup Instructions:
___